US08232294B2
Step 3) Ethyl 1-(4-fluorophenylcarbamoyl)cyclopropanecarboxylate
To a mixture of 1-(ethoxycarbonyl)cyclopropanecarboxylic acid (12.9 g, 81.6 mmol), 4-fluorobenzenamine (9.06 g, 81.6 mmol, Alfa-Aesar) and HOAt (2.22 g, 16.3 mmol, Shanghai Medped Co. Ltd.) in DCM (80 mL) was added EDCI (18.76 g, 97.9 mmol, Shanghai Medped Co. Ltd.) in portions at rt. The reaction was warmed up to 45° C. and stirred for 3 h. The mixture was extracted with water (150 mL×5), followed by brine (100 mL). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was recrystallized in n-hexane to give the title compound as a pale yellow solid (12.83 g, 63%).

reactant | 1-(ethoxycarbonyl)cyclopropanecarboxylic acid | 81.6 mmol, 12.9 g | C(C)OC(=O)C1(CC1)C(=O)O | C7H10O4
reactant | 4-fluorobenzenamine | 81.6 mmol, 9.06 g | FC1=CC=C(C=C1)N | C6H6FN
reactant | HOAt | 16.3 mmol, 2.22 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 97.9 mmol, 18.76 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 1-(4-fluorophenylcarbamoyl)cyclopropanecarboxylate | 12.83 g, 63% | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)OCC | C13H14FNO3
